US03953614
To a one liter flask equipped with heating jacket, agitator and condenser fitted with a Dean-Stark trap was charged 100 grams (1.0 mole), 2-ethyl-butanal, 97 grams(1.1 mole) 2-butene-1,4-diol, 80 grams cyclohexane and 0.2 grams p-toluenesulfonic acid monohydrate. The mixture was heated with vigorous agitation at reflux (84° - 99°C.) until water no longer continued to be distilled from the reaction mixture (1.2 hours). The reaction mixture was cooled to room temperature and the p-toluenesulfonic acid neutralized by washing with reaction mixture with a 5% aqueous solution of sodium hydroxide. The reaction mixture was then washed neutral with water and distilled to remove the cyclohexane. The oil was vacuum distilled to obtain 146 grams (86% of theoretical) of 4,7-dihydro-2-(3-pentyl)-1,3-dioxepin having a boiling point of 47°C. at a pressure of 1.0 millimeter of mercury, (refractive index, ND20 = 1.457). Analysis for carbonyl content of IR showed 0.0% carbonyl and VPC analysis showed the compound to have a purity of 100%.

reactant | 2-ethyl-butanal | C(C)C(C=O)CC | C6H12O
reactant | 2-butene-1,4-diol | 1.1 mole, 97 grams | C(C=CCO)O | C4H8O2
reactant | cyclohexane | 80 grams | C1CCCCC1 | C6H12
catalyst | p-toluenesulfonic acid monohydrate | 0.2 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 4,7-dihydro-2-(3-pentyl)-1,3-dioxepin | 146 grams, 86% | CCC(CC)C1OCC=CCO1 | C10H18O2
